Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Ultram / Pollen Extracts / Lipitor / belladonna alkaloids / 
Cardizem / betamil
 
Attending: ___
 
Chief Complaint:
Jaundice
 
Major Surgical or Invasive Procedure:
ERCP ___ with sphincterotomy and stent placement

 
History of Present Illness:
Ms ___ is a pleasant ___ with hx breast ca, HTN who 
initially presented to her PCP ___ few days ago for fatigue and 
abd tenderness x ___ and was found to have jandice, labs showing 
elevated bili.  Denies fevers, wt loss.  She was referred to 
___ where labs showed bili of 6.0, ALT of 1284, 
AST of 721 and CT showed ill-defined mass in the hilum of the 
liver with moderately severe intrahepatic bilary dilation no 
extrahepatic billary dilation and narrowing of the portal vein 
concerning for cholangiocarcinoma.  She was transferred to ___ 
for ERCP.  Incidentally, one week prior pt states she was in the 
ED for hives after starting betaphyl lotion for dry skin.  At 
this time she was started on a course of prednisone which was to 
be completed today.

In the ED, initial vitals were: 97.9 63 166/73 15 96% RA.  She 
was given ativan, zofran and fluids.  ERCP was notified. 

On the floor, pt c/o ongoing mild abd pain, gas and itching.  
She also notes that her stools have been light and urine dark.  
She endorses chronic shoulder pain.

Review of systems:
(+) Per HPI
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea. 
No dysuria. Denies arthralgias or myalgias.
 
Past Medical History:
-bilateral breast CA
-hypertension
-hyperlipidemia,
-episodic esophageal spasms, managed with Norvasc and Xanax
-right breast lymphedema
-hysterectomy at age ___
-hx of ureretal damage during hysterectomy requiring multiple 
subsequent abd surgeries and c/b several hospitalizations for 
SBO
-pt states heart stopped for 5 s x2 during colonoscopy but pt 
has since had anesthesia without difficulty.
 
Social History:
___
Family History:
The patient has a family history of breast cancer, farther died 
of stroke, uncle with stomach cancer.
 
Physical Exam:
ADMISSION EXAM:
Vitals: 162/70 97.5 75 18 93% RA
General: Alert, oriented, no acute distress
HEENT: Sclera mildly icteric
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
Abdomen: Soft, TTP in epigastrium, LUQ, non-distended, bowel 
sounds present, no organomegaly, no rebound or guarding
GU: No foley
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro: CNII-XII intact and strength grossly intact.
Skin: no rashes/lesions

DISCHARGE EXAM:
No abdominal tenderness
otherwise unchanged
 
Pertinent Results:
ADMISSION LABS:
___ 03:20AM BLOOD WBC-12.1*# RBC-4.43 Hgb-13.8 Hct-40.7 
MCV-92 MCH-31.2 MCHC-33.9 RDW-14.8 RDWSD-49.9* Plt ___
___ 03:20AM BLOOD Neuts-71.9* ___ Monos-7.1 
Eos-0.4* Baso-0.2 Im ___ AbsNeut-8.66* AbsLymp-2.32 
AbsMono-0.86* AbsEos-0.05 AbsBaso-0.03
___ 03:20AM BLOOD Glucose-122* UreaN-15 Creat-0.6 Na-136 
K-4.3 Cl-102 HCO3-19* AnGap-19
___ 03:20AM BLOOD ALT-857* AST-260* AlkPhos-618* 
TotBili-3.8*
___ 03:20AM BLOOD Albumin-4.0 Calcium-9.5 Phos-4.0 Mg-2.3

IMAGING:
___ CT abd/pelvis: Ill defined mass in the hilum of the 
liver with moderately severe intrahepatic biliary dilation, no 
extrahepatic biliary dilation and narrowing of the portal vein 
concerning for cholangiocarcinoma.

___ MRCP:
1. Approximately 2.4 x 1.5 cm ill-defined lesion at the porta
hepatis resulting in severe intrahepatic biliary ductal
dilatation, with abrupt obstruction at the proximal extrahepatic
bile duct highly concerning for a Klatskin-type
cholangiocarcinoma, likely ___ type 2. 
2.   No abnormal lymph nodes or other evidence of metastatic
disease. 

___ ERCP report: 
The scout film was normal. 
•Cannulation of the biliary duct was successful and deep with a
sphincterotome using a free-hand technique. 
•Contrast medium was injected resulting in complete
opacification. 
•A 1.5 cm, tight stricture was noted in the common hepatic duct
just above the cystic duct takeoff and below the hilum.  There
was evidence of severe post-obstructive dilation. No stricture
was seen involving the left or right hepatic duct. 
•A small sphincterotomy was made with the sphincterotome. There
was no post-sphincterotomy bleeding. 
•Brushings were obtained of the common hepatic duct stricture
using a cytology brush. 
•A ___ Fr x 9 cm was successfully placed above the common hepatic
duct stricture. 
•Excellent bile and contrast drainage was seen endoscopically 
and
fluoroscopically. 
•Otherwise normal ercp to third part of the duodenum

DISCHARGE LABS:

___ 06:50AM BLOOD WBC-11.3* RBC-4.27 Hgb-12.9 Hct-38.7 
MCV-91 MCH-30.2 MCHC-33.3 RDW-15.4 RDWSD-50.4* Plt ___
___ 06:50AM BLOOD Glucose-111* UreaN-18 Creat-0.8 Na-139 
K-3.6 Cl-100 HCO3-27 AnGap-16
___ 06:50AM BLOOD ALT-985* AST-378* AlkPhos-721* 
TotBili-5.1*
___ 07:05AM BLOOD Calcium-9.7 Phos-4.0 Mg-2.3
 
Brief Hospital Course:
This is an ___ year old female admitted for painless jaundice ___ 
likely cholangiocarcinoma and bile duct obstruction.  

# Likely cholangiocarcinoma
# Bile duct obstruction
- MRCP concerning for a Klatskin tumor, also showed evidence of 
biliary obstruction accounting for her symptoms of jaundice, 
pruritus, and a peak bilirubin of 13.  She underwent an ERCP on 
___ with stent placement and sphinctertomy with good results.  
LFTs improved significantly.  Her diet was advanced without any 
difficulty.  She was seen by the pancreatic surgery service to 
discuss options.  She will follow-up with them on ___ as an 
outpatient to discuss options for surgical resection.  She was 
treated with hydroxyzine and sarna lotion for her pruritus, she 
did not need either on discharge.  She was discharged to 
complete a 5-day course of ciprofloxacin. 

# HTN - continued on her BB, started on lisinopril in-house due 
to elevated BPs. She was discharged on both medications and 
asked to follow-up in 2 weeks with her PCP for ___ BP check and 
kidney function check. 

# HL - continued on zetia

# Anxiety - continued on ativan as needed. 

# CODE: full
# CONTACT: ___ ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE Dose is Unknown  PO DAILY 
2. Lorazepam 0.5 mg PO BID:PRN anxiety 
3. Atenolol 25 mg PO DAILY 
4. Ezetimibe 10 mg PO DAILY 
5. Ibuprofen Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1. Atenolol 25 mg PO DAILY 
2. Ezetimibe 10 mg PO DAILY 
3. Lorazepam 0.5 mg PO BID:PRN anxiety 
4. Ciprofloxacin HCl 500 mg PO Q12H Duration: 5 Days 
RX *ciprofloxacin HCl 500 mg One tablet(s) by mouth twice daily 
Disp #*7 Tablet Refills:*0
5. Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg one tablet(s) by mouth daily Disp #*21 
Tablet Refills:*0
6. Sarna Lotion 1 Appl TP QID:PRN pruritus 
RX *camphor-menthol [Sarna Anti-Itch] 0.5 %-0.5 % one 
application to affected areas four times daily as needed 
Refills:*0
7. OxycoDONE (Immediate Release)  5 mg PO Q8H:PRN pain 
this medication causes sedation; do not drink or drive while 
taking 
RX *oxycodone 5 mg one tablet(s) by mouth every 8 hours as 
needed for pain Disp #*15 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bile duct obstruction
Likely cholangiocarcinoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you during your recent admission at 
___.  You came because of abdominal pain, nausea and vomiting, 
and were found to have an obstruction of your bile duct on CT 
imaging due to a mass, concerning for cholangiocarcinoma.  An 
ERCP was performed and a stent was placed to help with relief of 
the obstruction.  You will need to complete the antibiotic, 
ciprofloxacin, over the next 4 days.  As we discussed, you will 
follow-up with Dr. ___ team on ___ to discuss options going 
forward. 

Please also follow-up with your primary care doctor in the next 
1 week for your blood pressure and lab follow-up.  Dr. 
___ will contact you regarding the results from 
the biopsies.  

MEDICATION CHANGES:
- do NOT take ibuprofen, aspirin, aleve, or motrin for the next 
1 week (can take as needed starting ___
- do TAKE ciprofloxacin through ___ (last dose ___ evening)
- use sarna lotion as needed
- do NOT take Tylenol while your liver enzymes are still 
elevated
- you can use oxycodone sparingly as needed for pain
- do TAKE lisinopril for your blood pressure, but you will need 
to have your BP and kidney function tests in ___ weeks
 
Followup Instructions:
___